US05420124
10 g of piroxicam was suspended in 83 g of methanol. To this suspension was added 1.95 g of 85% KOH at 15° to 20° C. The resulting solution was stirred for 30 minutes at the same temperature, filtered and evaporated to remove methanol. The residue was dissolved by adding 74.2 g of isopropyl alcohol and the resulting solution was stirred for one hour at 20° to 25° C. and then cooled to 0° C. to precipitate the solid product. The resulting solid was filtered, washed with 24.7 g of isopropyl alcohol and then dried in vacuum to obtain 9.4 g (Yield 84%) of piroxicam potassium.

reactant | piroxicam | 10 g | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
reactant | KOH | 1.95 g | [OH-].[K+]
solvent | methanol | 83 g | CO | CH4O
product | piroxicam potassium | 9.4 g, Yield 84% | CN1C(=C(C2=CC=CC=C2S1(=O)=O)[O-])C(=O)NC3=CC=CC=N3.[K+] | InChI=1S/C15H13N3O4S.K/c1-18-13(15(20)17-12-8-4-5-9-16-12)14(19)10-6-2-3-7-11(10)23(18,21)22;/h2-9,19H,1H3,(H,16,17,20);/q;+1/p-1
